US07696216B2
B. Synthesis of 1-(3-chloro-4-hydroxy-5-methoxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one
To a mixture of 43.1 mg (0.093 mmol) of [2-(3-Chloro-4-hydroxy-5-methoxy-benzyl-amino)-5-prop-2-ynyloxy-phenyl]-(4-isopropyl-phenyl)-methanone in 1 ml of acetic acid is added 12.1 mg (0.186 mmol) of sodium cyanate. After siring for 12 h at r.t. the solvent is removed in vacuo and the residue partitioned between saturated NaHCO3 solution and ethyl acetate. The organic layer is separated and the aqueous phase extracted twice with ethyl acetate. The combined organic extracts are dried (Na2SO4) and evaporated in vacuo. Flash chromatography (SiO2, hexane/ethyl acetate) affords the title compound as an amorphous yellow solid.

reactant | [2-(3-Chloro-4-hydroxy-5-methoxy-benzyl-amino)-5-prop-2-ynyloxy-phenyl]-(4-isopropyl-phenyl)-methanone | 0.093 mmol, 43.1 mg | ClC=1C=C(CNC2=C(C=C(C=C2)OCC#C)C(=O)C2=CC=C(C=C2)C(C)C)C=C(C1O)OC | C27H26ClNO4
reactant | sodium cyanate | 0.186 mmol, 12.1 mg | [O-]C#N.[Na+]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1-(3-chloro-4-hydroxy-5-methoxy-benzyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | ClC=1C=C(CN2C(N=C(C3=CC(=CC=C23)OCC#C)C2=CC=C(C=C2)C(C)C)=O)C=C(C1O)OC | C28H25ClN2O4
